US06353128B1
Into 100 mL of glacial HOAc was dissolved 34 g (0.2 Mole) of diphenyl ether. To the stirred solution was added 6.78 g (0.22 Mole) paraformaldehyde and 40 mL of 31% solution of HBr in HOAc. The reaction was heated 48 hours at 60° C. and then poured into cold water with stirring. The mixture was extracted with EtOAc and the resulting organic layer was washed with water, dried over Na2SO4, and evaporated under vacuum to give 50 g of crude 1-bromethyl-4-phenoxybenzene as an oil, which was used in the subsequent reaction without additional purification.

reactant | diphenyl ether | 0.2 Mole, 34 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | paraformaldehyde | 0.22 Mole, 6.78 g | C=O | CH2O
reactant | HBr | Br | BrH
reactant | water | O | H2O
reactant | HOAc | CC(=O)O | C2H4O2
reactant | HOAc | 100 mL | CC(=O)O | C2H4O2
product | 1-bromethyl-4-phenoxybenzene | 50 g | BrC(C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C14H13BrO
